US05891871
1-(4-Methoxyphenyl)-7,8-methylenedioxy-3,5-dihydro-2,3-benzodiazepin-4(4H)-one
The title compound was prepared from methyl 4,5-methylenedioxy-2-(4-methoxybenzoyl)phenylacetate (102 mg, 0.31 mmol) and hydrazine hydrate (30 μL, 0.53 mmol) in 1-propanol (8 mL), mp: 194°-196° C. 1H NMR (CDCl3) 8.48 (s, 1H), 7.55 (d, 2H, J=8.8), 6.94 (d, 2H, J=8.8), 6.83 (s, 1H), 6.66 (s, 1H), 6.03 (s, 2H), 3.86 (s, 3H), 3.44 (s, 2H). Anal. calcd. for C17H14N2O4 : C, 65.80; H, 4.55; N, 9.03. Found: C, 65.56; H, 4.57; N, 8.72.

reactant | methyl 4,5-methylenedioxy-2-(4-methoxybenzoyl)phenylacetate | 0.31 mmol, 102 mg | C1OC2=CC(=C(C=C2O1)CC(=O)OC)C(C1=CC=C(C=C1)OC)=O | C18H16O6
reactant | hydrazine hydrate | 0.53 mmol, 30 μL | O.NN
solvent | 1-propanol | 8 mL | C(CC)O | C3H8O
product | 1-(4-Methoxyphenyl)-7,8-methylenedioxy-3,5-dihydro-2,3-benzodiazepin-4(4H)-one | COC1=CC=C(C=C1)C1=NNC(CC2=C1C=C1C(=C2)OCO1)=O | C17H14N2O4
